US07504508B2
4-(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}-2-fluorophenoxy)-2,2-dimethylbutanoic acid (H-57)
To the solution of Methyl 4-(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}-2-fluorophenoxy)-2,2-dimethylbutanoate in MeOH/THF (1 mL/1 mL) was added excessive LiOH (1N aqueous solution). The reaction mixture was stirred at r.t. for overnight. The reaction was quenched by adding 6N HCl to PH 2. The mixture was concentrated under reduced pressure to remove MeOH and THF. DCM was added. The reaction mixture was washed with brine. The organic phase was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by preparative HPLC to afford pure product.

reactant | Methyl 4-(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}-2-fluorophenoxy)-2,2-dimethylbutanoate | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=CC(=C(OCCC(C(=O)OC)(C)C)C1)F)C)C1=CC=C(C=C1)Cl | C32H34ClFN2O5
reactant | LiOH | 1N | [Li+].[OH-]
solvent | MeOH THF | 1 mL | CO.C1CCOC1
product | 4-(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}-2-fluorophenoxy)-2,2-dimethylbutanoic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=CC(=C(OCCC(C(=O)O)(C)C)C1)F)C)C1=CC=C(C=C1)Cl | C31H32ClFN2O5
